US08563570B2
(5S)-7-(3,4′-Bipyridin-6-yl)-2-(trans-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one
Sodium carbonate (10.6 mg, 0.000100 mol) in water (0.10 mL) was added to a mixture of (5S)-7-(5-bromopyridin-2-yl)-2-(trans-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one (20.4 mg, 0.0000500 mol) which was prepared by using a procedure that was analogous to the one described for the synthesis of example 93 starting from (5S)-2-(trans-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one in NMP (0.25 mL), 4-pyridinylboronic acid (9.22 mg, 0.0000750 mol) and tetrakis(triphenylphosphine) palladium(0) (1.7 mg, 0.0000015 mol) in toluene (200.0 μL, 0.001878 mol) and ethanol (100.000 μL, 1.71267E-3 mol). The resulting mixture was heated at 120° C. for 20 min. The mixture was filtered and the filtrate was diluted with methanol and adjusted to pH=2 with TFA. The resulting solution was purified by prep.-HPLC to give the desired product. LC-MS: 407.2 (M+H)+.

reactant | Sodium carbonate | 0.000100 mol, 10.6 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | (5S)-7-(5-bromopyridin-2-yl)-2-(trans-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one | 0.0000500 mol, 20.4 mg | BrC=1C=CC(=NC1)N1C[C@@]2(CCN(C2=O)[C@@H]2CC[C@H](CC2)O)CCC1 | C19H26BrN3O2
reactant | (5S)-2-(trans-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one | O[C@@H]1CC[C@H](CC1)N1C([C@@]2(CC1)CNCCC2)=O | C14H24N2O2
reactant | 4-pyridinylboronic acid | 0.0000750 mol, 9.22 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | toluene | 0.001878 mol, 200.0 μL | C1(=CC=CC=C1)C | C7H8
reactant | ethanol | 1.71267E-3 mol, 100.000 μL | C(C)O | C2H6O
solvent | water | 0.10 mL | O | H2O
solvent | NMP | 0.25 mL | CN1CCCC1=O | C5H9NO
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.0000015 mol, 1.7 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (5S)-7-(3,4′-Bipyridin-6-yl)-2-(trans-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one | N1=CC(=CC=C1N1C[C@@]2(CCN(C2=O)[C@@H]2CC[C@H](CC2)O)CCC1)C1=CC=NC=C1 | C24H30N4O2
